US07253178B2
1-[2-(Benzyloxy)ethoxy]-4-cyclohexylbenzene
A suspension of 4-cyclohexylphenol (2.5 g), benzyl 2-bromoethyl ether (3.0 g) and potassium carbonate (2.4 g) in N,N-dimethylformamide (50 mL) was stirred at 60° C. for 23 hours. The reaction solution was diluted with water and ethyl acetate. The organic layer was washed with saturated aqueous potassium carbonate solution and saturated ammonium chloride (×2), dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a colorless oil (3.9 g).

reactant | 4-cyclohexylphenol | 2.5 g | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | benzyl 2-bromoethyl ether | 3.0 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(Benzyloxy)ethoxy]-4-cyclohexylbenzene | 3.9 g | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C1CCCCC1 | C21H26O2
